US07939533B2
b) (S)-3-(tert-Butyl-dimethyl-silanyloxymethyl)-morpholine
A solution of 1.54 g (4.79 mmol) (S)-4-benzyl-3-(tert-butyl-dimethyl-silanyloxymethyl)-morpholine in 24 ml ethanol was deoxygenated by three cycles of evacuation and flushing with argon. After addition of 0.5 g palladium on charcoal (10%) the reaction vessel was evacuated and filled with hydrogen gas. The reaction mixture was stirred at room temperature under an atmosphere of hydrogen over night. Filtration over decalite and evaporation of the solvent in vacuo gave 1.08 g (97.4%) of the crude title compound as a colorless oil.

reactant | (S)-4-benzyl-3-(tert-butyl-dimethyl-silanyloxymethyl)-morpholine | 4.79 mmol, 1.54 g | C(C1=CC=CC=C1)N1[C@@H](COCC1)C(O[SiH2]C(C)(C)C)(C)C | C18H31NO2Si
solvent | ethanol | 24 ml | C(C)O | C2H6O
product | (S)-3-(tert-Butyl-dimethyl-silanyloxymethyl)-morpholine | 1.08 g, 97.4% | C(C)(C)(C)[SiH2]OC([C@H]1NCCOC1)(C)C | C11H25NO2Si
